US04072696
1.0 G. of 1-acetamido-2-amino-4-methoxymethylthiobenzene in 30 ml. acetone is treated overnight with 2 g. methoxy carbonyl isothiocyanate at room temperature. The solution is concentrated and the residue triturated with ether. Recrystallization affords 2-acetamido-1-(3-methoxycarbonyl-2-thioureido)-5-methoxymethylthiobenzene.

reactant | 1-acetamido-2-amino-4-methoxymethylthiobenzene | C(C)(=O)NC1=C(C=C(C=C1)SCOC)N | C10H14N2O2S
reactant | methoxy carbonyl isothiocyanate | COC(=O)N=C=S | C3H3NO2S
solvent | acetone | CC(=O)C | C3H6O
product | 2-acetamido-1-(3-methoxycarbonyl-2-thioureido)-5-methoxymethylthiobenzene | C(C)(=O)NC1=C(C=C(C=C1)SCOC)NC(=S)NC(=O)OC | C13H17N3O4S2
